US07153854B2
To a solution of 2-ethyl-1H-pyrrole in toluene (120 mL) was added dropwise 1M methylmagnesium bromide in tetrahydrofuran (170 mL) in a dry ice-acetone bath below −60° C. over 30 minutes. Then the mixture was stirred in an ice-water bath for 40 minutes. To this reaction mixture was added S-(2-pyridinyl) 4-cyanobenzenecarbothioate (15.2 g) portionwise over 10 minutes in a dryice-acetone bath. After 1.5 hours stirring, saturated ammonium chloride (100 mL) was added therein and the reaction mixture was allowed to ambient temperature. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with 1N sodium hydroxide (100 mL) twice, water, and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was triturated with isopropyl ether to give 4-[(5-ethyl-1H-pyrrol-2-yl)carbonyl]benzonitrile (12.7 g) as a pale yellow solid.

reactant | 2-ethyl-1H-pyrrole | C(C)C=1NC=CC1 | C6H9N
reactant | methylmagnesium bromide | 1M | C[Mg]Br
reactant | S-(2-pyridinyl) 4-cyanobenzenecarbothioate | 15.2 g | C(#N)C1=CC=C(C=C1)C(SC1=NC=CC=C1)=O | C13H8N2OS
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
product | 4-[(5-ethyl-1H-pyrrol-2-yl)carbonyl]benzonitrile | 12.7 g | C(C)C1=CC=C(N1)C(=O)C1=CC=C(C#N)C=C1 | C14H12N2O
